US06794403B2
Step a) 2-Fluoro-4-methoxybenzoic acid
Into a warm (55° C.) mixture of Ag2O (13.5 g, 58.4 mmol), NaOH (19.5 g, 487 mmol) and water (200 mL) was added 2-fluoro-4-methoxybenzaldehyde (15 g, 97.4 mmol). The mixture was stirred for 1 h, filtered off and the precipitated solids were washed with hot water (10 mL). The filtrate was added slowly into cold (0° C.) HCl (5N) with vigorous stirring. The precipitated solid was filtered, washed with water and dried to give a white solid (13.6 g, 82% yield, m.p. 194-196° C.); MS m/e 169 (M−H)+.

reactant | NaOH | 487 mmol, 19.5 g | [OH-].[Na+]
reactant | 2-fluoro-4-methoxybenzaldehyde | 97.4 mmol, 15 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
solvent | water | 200 mL | O | H2O
product | 2-Fluoro-4-methoxybenzoic acid | 13.6 g, 82% yield | FC1=C(C(=O)O)C=CC(=C1)OC | C8H7FO3
